US07960555B2
Synthesis of 6-azido-1-hexanol.
A solution of 6-bromo-1-hexanol (3.6 g, 20 mmol) and sodium azide (2.6 g, 40 mmol) in 95% ethanol (50 mL) was heated with stirring to reflux for 12 hours. The mixture was filtered, and the filtrate concentrated by rotary evaporation. The residue was dissolved in ether (250 mL) and washed three times with water. The ether layer was dried over anhydrous MgSO4, and concentrated by rotary evaporation to give the desired product as a colorless liquid in 88% yield: 1H NMR (CDCl3, 400 MHz): δ (CHCl3 7.26 ppm) 3.65-3.62 (t, J=6.52 Hz, 2H), 3.28-3.24 (t, J=6.88 Hz, 2H), 1.60 (m, 4H), 1.40 (m, 4H); 13C NMR (CDCl3, 100 MHz): δ (ppm) 62.7, 51.3, 32.5, 28.8, 26.5, 25.3.

reactant | 6-bromo-1-hexanol | 20 mmol, 3.6 g | BrCCCCCCO | C6H13BrO
reactant | sodium azide | 40 mmol, 2.6 g | [N-]=[N+]=[N-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 6-azido-1-hexanol | 88% yield | N(=[N+]=[N-])CCCCCCO | C6H13N3O
